US08492543B2
Synthesis of t-butyl {3-[6,7-dimethoxy-2-(methylamino)quinazolin-4-yl]phenyl}carbamate
In a SUS autoclave were placed 420 mg (1.00 mmol) of t-butyl [3-(2-chloro-6,7-dimethoxyquinazolin-4-yl)phenyl]carbamate, tetrahydrofuran (2.5 mL), and 2-propanol (1.25 mL), to this mixture was added a methanol solution (2.5 mL) of 40% methylamine, and the mixture was stirred at 90° C. for 8 hours. The reaction mixture was allowed to cool and then poured into a mixed solution of ethyl acetate (40 mL), tetrahydrofuran (40 mL), and 5% w/w sodium chloride solution (50 mL) to extract the organic layer. The organic layer was washed with 5% w/w sodium chloride solution (50 mL) and then concentrated under reduced pressure. To the concentration residue was added t-butyl methyl ether (2.1 mL), and the mixture was crystallized with a spatula and then stirred at room temperature for 3 hours. The precipitated crystals were collected by filtration and dried to give 348 mg of a target product (yield: 83.8%).

reactant | t-butyl [3-(2-chloro-6,7-dimethoxyquinazolin-4-yl)phenyl]carbamate | 1.00 mmol, 420 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C=1C=C(C=CC1)NC(OC(C)(C)C)=O)OC)OC | C21H22ClN3O4
reactant | methylamine | CN | CH5N
reactant | sodium chloride | 50 mL | [Cl-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2.5 mL | CO | CH4O
solvent | 2-propanol | 1.25 mL | CC(C)O | C3H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | t-butyl {3-[6,7-dimethoxy-2-(methylamino)quinazolin-4-yl]phenyl}carbamate | 348 mg, yield: 83.8% | COC=1C=C2C(=NC(=NC2=CC1OC)NC)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C22H26N4O4
